### ISSUE TITLE
[Verification] No multi-transaction invariant proofs — all 305 theorems are single-transaction

### ISSUE THREAD

**Issue by Th0rgal** [Th0rgal/verity#265]
## Summary

All 305 proven theorems in Verity verify properties of **single** function calls. No theorem proves that an invariant holds across an arbitrary sequence of transactions.

## The Gap

**What is proven (single-tx):**
```lean
-- "After ONE call to mint, totalSupply increases by amount"
theorem mint_meets_spec (s : ContractState) (to : Address) (amount : Uint256) :
    mint_spec to amount s (((mint to amount).run s).snd)
```

**What is NOT proven (multi-tx):**
```lean
-- "After ANY sequence of mints/transfers/burns, totalSupply = Σ balances"
theorem supply_conservation_inductive :
    ∀ (txs : List Transaction) (s₀ : ContractState),
      invariant_holds s₀ →
      invariant_holds (foldl applyTx s₀ txs)
```

## Why This Matters

Single-transaction proofs say "this function does what its spec says." Multi-transaction proofs say "the contract's global invariants can never be violated." These are fundamentally different guarantees:

- **Total supply conservation**: "totalSupply = sum of all balances" should hold after any sequence of mints, transfers, and burns. Currently proven only for individual operations (and with 6 `sorry` until PR #251).
- **Ownership exclusivity**: "exactly one address is the owner at all times" — proven for individual `transferOwnership` calls, but not for arbitrary sequences.
- **Reentrancy safety**: "no sequence of calls can violate balance invariants" — would require multi-tx reasoning.

### Step 1: Define an inductive invariant framework

```lean
structure ContractInvariant where
  predicate : ContractState → Prop
  initial : predicate initialState
  preserved : ∀ (tx : Transaction) (s : ContractState),
    predicate s → predicate (applyTransaction contract tx s)
```

### Step 2: Prove invariants for existing contracts

Start with SimpleToken:
```lean
def balanceSumInvariant : ContractInvariant where
  predicate := fun s => s.storage totalSupplySlot = sumOverAddresses s balancesSlot
  initial := by simp [initialState]
  preserved := by
    intro tx s hinv
    cases tx with
    | mint to amount => exact mint_preserves_sum hinv
    | transfer from to amount => exact transfer_preserves_sum hinv
    | burn from amount => exact burn_preserves_sum hinv
```

### Step 3: Derive multi-tx theorem

```lean
theorem invariant_holds_forever (inv : ContractInvariant) :
    ∀ (txs : List Transaction) (s : ContractState),
      inv.predicate s →
      inv.predicate (txs.foldl (fun s tx => applyTransaction contract tx s) s) := by
  intro txs
  induction txs with
  | nil => intro s h; exact h
  | cons tx rest ih =>
    intro s h
    exact ih _ (inv.preserved tx s h)
```

## Effort Estimate

- Framework definition: Small (the types above are straightforward)
- Per-contract invariant proofs: Medium — each requires proving that **every** public function preserves the invariant, including revert cases
- The Ledger `sum` proofs (recently completed per PR #251) are the hardest prerequisite — they prove the single-tx case that the multi-tx induction depends on

## Related

- Closed #189 documented this gap but was closed without implementation
- PR #251 completes the Ledger sum proofs (single-tx), which is a prerequisite
- The `FiniteAddressSet` infrastructure in `Verity/Core/FiniteSet.lean` exists precisely for this purpose

**Comment by Th0rgal** [comment]
Closing as duplicate of #189, which was previously opened, discussed, and closed covering the same gap (no multi-transaction invariant proofs).

Both issues identify that all 305 theorems are single-transaction properties and that no inductive invariant proofs exist for sequences of transactions. #189 is the canonical issue for this topic.
